US05591752
11-(2-Carboxyethylthio)-2-(8-fluoroquinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine: (Exemplary compound 234)
2-(8-Fluoroquinolin-2-yl)methoxy-11-hydroxy-6,11-dihydrodibenz[b,e]oxepine and 3-mercaptopropionic acid were used and reacted in the same manner as in Example 1 to obtain the title compound.

reactant | 2-(8-Fluoroquinolin-2-yl)methoxy-11-hydroxy-6,11-dihydrodibenz[b,e]oxepine | FC=1C=CC=C2C=CC(=NC12)COC1=CC2=C(OCC3=C(C2O)C=CC=C3)C=C1 | C24H18FNO3
reactant | 3-mercaptopropionic acid | SCCC(=O)O | C3H6O2S
product | 11-(2-Carboxyethylthio)-2-(8-fluoroquinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine | C(=O)(O)CCSC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)OCC2=NC3=C(C=CC=C3C=C2)F | C27H22FNO4S
